US07396844B1
Synthesis of N-[2-(3-cyanophenoxy)ethyl]-4-cyanobenzamide
1.13 g (7.68 mmol) of 4-cyanobenzoic acid and 1.6 ml (14.1 mmol) of N-methylmorpholine were dissolved in 30 ml of dimethylformamide. 0.67 ml (7.05 mmol) of ethyl chloroformate was added to the solution under cooling with ice/water. After stirring for 5 minutes, 1.27 g (6.41 mmol) of 3-(2-aminoethoxy)benzonitrile was added to the reaction mixture, and the obtained mixture was stirred at room temperature for one hour. After the treatment with ethyl acetate as the extractant in an ordinary manner, the title compound was obtained.

reactant | 4-cyanobenzoic acid | 7.68 mmol, 1.13 g | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
reactant | N-methylmorpholine | 14.1 mmol, 1.6 ml | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 7.05 mmol, 0.67 ml | ClC(=O)OCC | C3H5ClO2
reactant | 3-(2-aminoethoxy)benzonitrile | 6.41 mmol, 1.27 g | NCCOC=1C=C(C#N)C=CC1 | C9H10N2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-(3-cyanophenoxy)ethyl]-4-cyanobenzamide | C(#N)C=1C=C(OCCNC(C2=CC=C(C=C2)C#N)=O)C=CC1 | C17H13N3O2
